US08304419B2
Step B: 4-chloro-2-methyl-5-{[(phenylmethyl)oxy]methyl}-1H-imidazole
A solution of N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}acetamide (1.64 g, 7.5 mmol), triphenylphosphine (4.9 g, 18.8 mmol), and carbon tetrachloride (1.8 mL, 18.8 mmol) in acetonitrile (75 mL) was heated at 45° C. for 6 h. The reaction was concentrated and the residue was stirred in CH2Cl2 (80 mL) and 0.5 N NaOH (70 mL) for 15 min. The organic layer was isolated, dried (Na2SO4), filtered, concentrated and the residue was purified by silica gel flash column chromatography (5-70% EtOAc:hexanes) to give the title compound as a yellow solid, in assumed quantitative yield due to inseparable triphenylphosphine oxide. 1H NMR (400 MHz, CDCl3) δ ppm 7.28-7.37 (m, 5H), 4.50 (s, 2H), 4.48 (s, 2H), 2.37 (s, 3H).

reactant | N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}acetamide | 7.5 mmol, 1.64 g | C(#N)C(COCC1=CC=CC=C1)NC(C)=O | C12H14N2O2
reactant | triphenylphosphine | 18.8 mmol, 4.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 18.8 mmol, 1.8 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | 4-chloro-2-methyl-5-{[(phenylmethyl)oxy]methyl}-1H-imidazole | quantitative yield | ClC=1N=C(NC1COCC1=CC=CC=C1)C | C12H13ClN2O
